US05387595
Step A) 2-Bromo-6-phenylcyclohexanone
A solution of 15 g (86 mmole) of 2-phenylcyclohexanone in 60 mL of carbon tetrachloride at -5° C. was treated via rapid dropwise addition with a solution of 14.4 g (90 mmole) of bromine in 70 mL of carbon tetrachloride so as to maintain the reaction temperature below 5° C. The color disappeared rapidly. The mixture was concentrated in vacuo to a brown solid and the solid triturated with methanol. The resulting white solid was collected by filtration to provide 9.55 g of product. After cooling the mother liquor at -25° C., an additional 5.2 g of solid was obtained, for a total yield of 68%, a portion of which was carried on directly in Step B below.

reactant | 2-phenylcyclohexanone | 86 mmole, 15 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | bromine | 90 mmole, 14.4 g | BrBr | Br2
solvent | carbon tetrachloride | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-6-phenylcyclohexanone | 9.55 g | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
